US04697021
5-(1H-pyrazol-1-yl)-1,6-naphthyridin-2(1H)-one. To a mixture containing 5-hydrazino-1,6-naphthyridin-2(1H)-one monohydrochloride monohydrate suspended in 100 ml of methanol was added 1.35 g of sodium methoxide and the mixture stirred at room temperature for 20 minutes and then stripped to dryness in vacuo to produce 5-hydrazino-1,6-naphthyridin-2(1H)-one in free base form. To the residue was added 6.15 g of 1,1,3,3-tetramethoxypropane and 25 ml of ethylene glycol; and, the resulting mixture was heated with stirring to about 170° C., allowing the methanol boil off from the reaction mixture. The reaction mixture was allowed to stand at room temperature over the weekend and was then concentrated on a rotary evaporator. The residue was slurried in boiling methanol; and, the mixture was cooled and filtered. The solid was slurried in water, collected and dried in a vacuum oven at about 90° C. The solid was dissolved in boiling dimethylformamide, the hot solution treated. with decolorizing charcoal and filtered, and, the filtrate allowed to cool. The separated product was collected, washed with methanol and dried in a vacuum oven at 90° C. to yield 2.8 g of 5-(1H-pyrazol-1-yl)-1,6-naphthyridin-2(1H)-one, m.p. >300° C.

reactant | 5-(1H-pyrazol-1-yl)-1,6-naphthyridin-2(1H)-one | N1(N=CC=C1)C1=C2C=CC(NC2=CC=N1)=O | C11H8N4O
reactant | 5-hydrazino-1,6-naphthyridin-2(1H)-one monohydrochloride monohydrate | O.Cl.N(N)C1=C2C=CC(NC2=CC=N1)=O
reactant | sodium methoxide | 1.35 g | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 5-hydrazino-1,6-naphthyridin-2(1H)-one | N(N)C1=C2C=CC(NC2=CC=N1)=O | C8H8N4O
